US03992432
A mixture of 100 grams (0.35 mole) of n-hexadecyl acetate, 50 grams of 50% aqueous sodium hydroxide solution (25 grams -- 0.62 mole of NaOH) and 1 gram of tricaprylylmethylammonium chloride were stirred in a beaker. After10 minutes, 50 ml of water was added to the reaction mixture, and the temperature rose to 54° C. After stirring for 2 hours, the organic layer solidified. The mixture was then heated to 50° C for 20 minutes. After cooling, the solid which separated was collected on the filter, washed with water and dried to give 41 grams (95%) of 1-hexadecanol having a melting point of 43°-48° C.

reactant | n-hexadecyl acetate | 0.35 mole, 100 grams | C(C)(=O)OCCCCCCCCCCCCCCCC | C18H36O2
reactant | sodium hydroxide | 0.62 mole, 50 grams | [OH-].[Na+]
catalyst | tricaprylylmethylammonium chloride | 1 gram | [Cl-].C(CCCCCCC)(=O)C(C(CCCCCCC)=O)(C(CCCCCCC)=O)[NH3+]
solvent | water | 50 ml | O | H2O
product | 1-hexadecanol | 41 grams, 95% | C(CCCCCCCCCCCCCCC)O | C16H34O
